US05175157
3-[(N-(2-(4-Acetamino-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride
0.88 g (0.002 mol) of 3-[(N-(2-(4-amino-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 0.3 ml (0.0022 mol) of triethylamine are dissolved in 10 ml of methylene chloride and 0.16 ml (0.0022 mol) of acetyl chloride are added dropwize with stirring. After 30 minutes water is added. The aqueous phase is extracted three times with methylene chloride. The organic phase is dried over magnesium sulphate and evaporated down in vacuo. The hydrochloride is precipitated from a solution of the residue in acetone using methanolic hydrochloric acid.

reactant | 3-[(N-(2-(4-amino-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 0.002 mol, 0.88 g | NC1=CC=C(C=C1)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C26H35N3O3
reactant | triethylamine | 0.0022 mol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.0022 mol, 0.16 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-[(N-(2-(4-Acetamino-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride | Cl.N(C(=O)C)C1=CC=C(C=C1)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C28H37N3O4.ClH/c1-20(32)29-25-8-6-21(7-9-25)10-13-30-12-4-5-22(18-30)19-31-14-11-23-15-26(34-2)27(35-3)16-24(23)17-28(31)33;/h6-9,15-16,22H,4-5,10-14,17-19H2,1-3H3,(H,29,32);1H
